US07504520B2
tert-butyl 7-ethoxy-1-naphthylcarbamate
To 8-amino-2-naphthol (10 g, 62.9 mmol) in 200 mL tetrahydrofuran was added di-tert-butyl dicarbonate (13.4 g, 62.8 mmol) in 20 mL tetrahydrofuran, and the reaction mixture was refluxed overnight. The reaction mixture was cooled to room temperature and concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with saturated Na2CO3 solution and water, dried over Na2SO4, filtered and concentrated. A solution of the concentrate in N,N-dimethylformamide (60 mL) was treated with Cs2CO3 (32.2 g, 98.8 mmol) and iodoethane (4.4 mL, 8.46 g, 53.5 mmol), and the mixture was vigorously stirred at 60° for 3 h. The mixture was then cooled to rt, poured into H2O, and extracted with ethyl acetate. The extracts were washed with H2O and brine, dried over MgSO4, filtered, and evaporated in vacuo to afford the title compound as a brown oil (14.47 g, 80%). 1H NMR (DMSO-d6) δ 9.14 (s, 1H), 7.81 (d, 1H, 8.9 Hz), 7.61 (d, 1H, J=8.2 Hz), 7.54 (d, 1H, 7.8 Hz), 7.37 (d, 1H, J=2.7 Hz), 7.28 (t, 1H, J=7.8 Hz), 7.15 (dd, 1H, J=8.9 Hz, 2.7 Hz), 4.16 (q, 2H, J=7.1 Hz), 1.50 (s, 9H), 1.09 (t, 3H, J=7.0 Hz); MS (ESI+) m/z 310 (M+Na)+.

reactant | 8-amino-2-naphthol | 62.9 mmol, 10 g | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | di-tert-butyl dicarbonate | 62.8 mmol, 13.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Cs2CO3 | 98.8 mmol, 32.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodoethane | 53.5 mmol, 4.4 mL, 8.46 g | ICC | C2H5I
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | H2O | O | H2O
product | tert-butyl 7-ethoxy-1-naphthylcarbamate | 14.47 g, 80% | C(C)OC1=CC=C2C=CC=C(C2=C1)NC(OC(C)(C)C)=O | C17H21NO3
